US07618960B2
Synthesis of (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol
A solution of (S)-(−)-propylene oxide (0.1 ml) and (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine (212 mg) in diethyl ether (1 ml) was added to a suspension of lithium perchlorate (750 mg) in diethyl ether (1 ml), and the reaction solution was stirred in a nitrogen atmosphere at room temperature overnight. Methylene chloride and ice water were added to the reaction solution. After stirring the reaction solution, the organic layer was separated. The aqueous layer was subjected to extraction with methylene chloride again. The organic layers were combined and dried over anhydrous magnesium sulfate, and then the solvent was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate:heptane=9:1 to 4:1) to obtain 172 mg of the title compound.

reactant | (S)-(−)-propylene oxide | 0.1 ml | C1[C@H](C)O1 | C3H6O
reactant | (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine | 212 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N)C | C25H28F3NOSi
reactant | lithium perchlorate | 750 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol | 172 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NC[C@H](C)O)C | C28H34F3NO2Si
